US05565479
2-[2-(1-Imidazolyl)ethyl]-8H-indeno[1,2-d]thiazole
Starting compounds: 2-bromo-1-indanone, 3-(1-imidazolyl)propanethioamide hydrochloride

reactant | 2-bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | 3-(1-imidazolyl)propanethioamide hydrochloride | Cl.N1(C=NC=C1)CCC(N)=S
product | 2-[2-(1-Imidazolyl)ethyl]-8H-indeno[1,2-d]thiazole | N1(C=NC=C1)CCC=1SC2=C(N1)C=1C=CC=CC1C2 | C15H13N3S
